US08012998B2
a) 2-{(RS)-1-[(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine (XI-B-2)
To a suspension of PPh3 (PPh3 polymer bound, 3 mmol PPh3/g resin) (3.14 g, 9.4 mmol) in THF (70 mL) at 0° C. were added 5-chloro-pyridin-2-ol (0.832 g, 6.42 mmol) and then DBAD (1.578 g, 6.85 mmol). After 5 minutes was added (SR)-1-[(3SR,4RS)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol (X-B-1) (1.50 g, 4.28 mmol). The reaction mixture was stirred over night at RT, filtered on celite and concentrated under vacuo. Extraction with EtOAc/aq.NaOH 1M, followed by column chromatography (SiO2, EtOAc/H, 1:6) yielded 1.71 g (87%) of the title compound as a colorless oil. ES-MS m/e: 461.2 (M+H+).

reactant | PPh3 | 3 mmol, 3.14 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-chloro-pyridin-2-ol | 6.42 mmol, 0.832 g | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | DBAD | 6.85 mmol, 1.578 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | (SR)-1-[(3SR,4RS)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | 4.28 mmol, 1.50 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)O | C19H21Cl2NO
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 2-{(RS)-1-[(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine | 1.71 g, 87% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)OC1=NC=C(C=C1)Cl | C24H23Cl3N2O
